US05032167
a) Methyl 2-chlorosulfonyl-6-fluorobenzoate
At 5° C. and while stirring, 108 g (0.64 mol) of methyl 6-fluoroanthranilate and 45 g (0.65 mol) of sodium nitrite in 106 ml of water were added separately but simultaneously over a period of 1 hour in such a manner to 250 ml of concentrated hydrochloric acid that the ester component was in an excess. After the reaction mixture had been stirred for 20 minutes at 5 to 8° C., it was poured all at once into a prepared solution of 53 g of sulfur dioxide, 1.7 g of copper (II) chloride in a small amount of water and 200 ml of 1,2-dichloroethane, and stirred for a further 10 minutes. The mixture was heated slowly to 50° C. and stirred for ninety minutes while passing in 46 g of sulfur dioxide. The mixture was then cooled to 20° C. and 5.5 g of chlorine was passed in over a 20-minute period while stirring. The organic phase was then separated, washed with water and dried. There was obtained 65% of theory of the title compound as a brownish oil.

reactant | methyl 6-fluoroanthranilate | 0.64 mol, 108 g | FC=1C=CC=C(C1C(=O)OC)N | C8H8FNO2
reactant | sodium nitrite | 0.65 mol, 45 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 250 ml | Cl | ClH
reactant | chlorine | 5.5 g | ClCl | Cl2
reactant | sulfur dioxide | 46 g | S(=O)=O | O2S
reactant | sulfur dioxide | 53 g | S(=O)=O | O2S
solvent | water | 106 ml | O | H2O
catalyst | copper (II) chloride | 1.7 g | [Cu](Cl)Cl
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | Methyl 2-chlorosulfonyl-6-fluorobenzoate | ClS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)F | C8H6ClFO4S
